US04954659
Preparation of 3-(3,4-Dimethoxyphenyl)-1-propyl methanesulfonate
Under N2, methanesulfonyl chloride (129.7 g, 1.132 m, 87.6 cc) was added dropwise over 1-1.5 hours at -10° to 0° C. to a mechanically stirred solution of 3-(3,4-dimethoxyphenyl)-1-propanol (202 g, 1.03 mole) and Et3N (158.3 g, 1.56 mole, 218 cc) in CH2Cl2 (1.5 1) contained in a 5 1, 3-neck flask. The reaction mixture was stirred at 0° C. for 1 hour and then washed successively with icewater (1×700 cc), cold 3N HCl (1×700 cc), saturated NaHCO3 solution (1×700 cc) and brine (1×700 cc). The organic solution was dried (Na2SO4) and concentrated in vacuo to an orange syrup; yield: 282 g (100%).

reactant | methanesulfonyl chloride | 87.6 cc, 129.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(3,4-dimethoxyphenyl)-1-propanol | 1.03 mole, 202 g | COC=1C=C(C=CC1OC)CCCO | C11H16O3
reactant | Et3N | 1.56 mole, 218 cc, 158.3 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(3,4-Dimethoxyphenyl)-1-propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC(=C(C=C1)OC)OC | C12H18O5S
